US04607030
2-Aminomethyl-4-(1,1-dimethylethyl)-6-ethylsulfamoylphenol hydrochloride
This compound is prepared analogously to Examples 11c and 11d from 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol and ethylamine.

reactant | 2-acetamidomethyl-6-chlorosulfonyl-4-(1,1-dimethylethyl)-phenol | C(C)(=O)NCC1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)Cl)O | C13H18ClNO4S
reactant | ethylamine | C(C)N | C2H7N
product | 2-Aminomethyl-4-(1,1-dimethylethyl)-6-ethylsulfamoylphenol hydrochloride | Cl.NCC1=C(C(=CC(=C1)C(C)(C)C)S(NCC)(=O)=O)O | InChI=1S/C13H22N2O3S.ClH/c1-5-15-19(17,18)11-7-10(13(2,3)4)6-9(8-14)12(11)16;/h6-7,15-16H,5,8,14H2,1-4H3;1H
